US09359367B2
Step 3: 1-benzyl-4-(4-fluorophenyl)-2,2-dimethylpiperazine
To a stirred solution of 1-benzyl-2,2-dimethylpiperazine (1.2 g, 5.87 mmol) in 1,4-dioxane (50 ml) at 25° C. was added 1-bromo-4-fluorobenzene (1.233 g, 7.05 mmol), 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (BINAP) (0.366 g, 0.587 mmol), sodium tert-butoxide (1.129 g, 11.75 mmol), and tris(dibenzyllideneacetone)dipalladium (0) [Pd2(dba)3] (0.269 g, 0.294 mmol). The reaction mixture was purged with nitrogen for 10 min in sealed tube and then heated at 100° C. for 5 h. The progress of reaction was monitored by TLC. The reaction mixture was cooled to 25° C., filtered through celite, washed with ethyl acetate (2×50 ml). The combined filtrate was concentrated under reduced pressure to obtain a crude product. The crude product was purified over silica gel (100-200 mesh) by flash chromatography using 10% ethyl acetate in hexane as eluent to obtain the title compound (1.1 g, 62.8%)

reactant | 1-benzyl-2,2-dimethylpiperazine | 5.87 mmol, 1.2 g | C(C1=CC=CC=C1)N1C(CNCC1)(C)C | C13H20N2
reactant | 1-bromo-4-fluorobenzene | 7.05 mmol, 1.233 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.587 mmol, 0.366 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 11.75 mmol, 1.129 g | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-benzyl-4-(4-fluorophenyl)-2,2-dimethylpiperazine | 1.1 g, 62.8% | C(C1=CC=CC=C1)N1C(CN(CC1)C1=CC=C(C=C1)F)(C)C | C19H23FN2
